US06573289B1
Production of 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-3-methyl-1-butanol
In a similar manner to that described in Example 1-(iv), the reaction of (1H-imidazol-4-yl)-(6-methoxynaphthalen-2-yl)ketone (0.60 g) with absolution of isobutylmagnesium bromide in THF (1.0 M, 2.4 ml) was carried out to give the titled compound (0.14 g) as a colorless solid.

reactant | (1H-imidazol-4-yl)-(6-methoxynaphthalen-2-yl)ketone | 0.60 g | N1C=NC(=C1)C(=O)C1=CC2=CC=C(C=C2C=C1)OC | C15H12N2O2
reactant | isobutylmagnesium bromide | C(C(C)C)[Mg]Br
solvent | THF | 1.0 M, 2.4 ml | C1CCOC1 | C4H8O
product | 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-3-methyl-1-butanol | 0.14 g | N1C=NC(=C1)C(CC(C)C)(O)C1=CC2=CC=C(C=C2C=C1)OC | C19H22N2O2
